US07253286B2
(4-Chloro-7-methoxyquinolin-6-yl)carbamic acid benzyl ester
(7-Methoxy-4-oxo-1,4-dihydroquinolin-6-yl)carbamic acid benzyl ester (2 g) was added to a mixture of thionyl chloride (20 ml) and N,N-dimethylformamide (0.5 ml), and the mixture was heated to reflux for 2 hours. After completion of the reaction, the thionyl chloride was distilled off, and a procedure of toluene addition and concentration was repeated 3 times to obtain the title compound (2.4 g) as a solid.

reactant | (7-Methoxy-4-oxo-1,4-dihydroquinolin-6-yl)carbamic acid benzyl ester | 2 g | C(C1=CC=CC=C1)OC(NC=1C=C2C(C=CNC2=CC1OC)=O)=O | C18H16N2O4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | (4-Chloro-7-methoxyquinolin-6-yl)carbamic acid benzyl ester | 2.4 g | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)Cl)=O | C18H15ClN2O3
